US06288082B1
A mixture of 0.249 g of 4-chloro-6,7-dimethoxy-quinolin-3-carbonitrile, 0.233 g of 5-amino-8-hydroxyquinoline dihydrocholride, 0.158 g of pyridine, and 10 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 2 hours. The mixture was cooled and added to 40 ml of water. To this mixture was added sodium carbonate and concentrated hydrochloric acid to adjust pH to 7. The product was collected, washed with water, and dried to give 0.210 g of 4-(8-hydroxy-quinolin-5-ylamino)-6,7-dimethoxy-quinoline-3-carbonitrile as a solid, mp 150° C. (decomposed); mass spectrum (EI, m/e): M 372.1228.

reactant | 4-chloro-6,7-dimethoxy-quinolin-3-carbonitrile | 0.249 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 5-amino-8-hydroxyquinoline | 0.233 g | NC1=C2C=CC=NC2=C(C=C1)O | C9H8N2O
reactant | ethoxyethanol | 10 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | pyridine | 0.158 g | N1=CC=CC=C1 | C5H5N
product | 4-(8-hydroxy-quinolin-5-ylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 0.210 g | OC=1C=CC(=C2C=CC=NC12)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C21H16N4O3
